2181-08-01 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hep C: since [**2153**] through blood transfusion, had splenectomy at the
   time in US. Followed by Dr. [**Last Name (STitle) 3723**] of [**Hospital1 358**]. Has had mult biopsies
   of liver lesions at [**Hospital3 2794**]. Never received interferon.
   - CVP 15, high TR -> overestimated but still 12
   - EP: keep temp wire, defer decison of pacemaker for now
   - Liver: ideally MRI liver or tripple phase CT for further eval of
   liver lesions. Child's class 3, significant risk of cardiac surgery and
   possible HCC. Albumin 2.5, try to improve nutrition status. AFP 56.5
   - Renal: Atheroembolic vs. contrast-induced (not HRS) with ATN on top
   of that - watch Cr; urine eos negative, f/u urine Na < 10,
   - UA dirty -> started on Cipro 250 q12, changed foley
   - Echo reviewed by [**Doctor First Name 1100**]- inf wall and RV hypokinesis -> likely RV
   infarct --> preload dependent; ant-septal hypokinesis - ?from recent
   ant MI. Two together mulitvessel CAD. 50% RCA, 80% distal L main -
   amenable to high risk cath
   - Cdiff negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-1**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 62 (62 - 79) bpm
   BP: 93/56(65) {86/32(29) - 131/76(76)} mmHg
   RR: 16 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 63.2 kg (admission): 55.5 kg
    CVP: 10 (9 - 15)mmHg
   Total In:
                                                                  2,639 mL
                                                                     96 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                  1,739 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    120 mL
   Urine:
                                                                    250 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,389 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   GENERAL: In NAD. Oriented x1. Mood, affect appropriate.  Communication
   with pt via daughter who translates.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI
   NECK: supple, JVP ~10
   CARDIAC: rrr, nl s1, faint s2, [**4-20**] ESM as well as [**4-20**] PSM.
   LUNGS: CTAB, faint crackles at bases.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: 2+ DP and PT pulses.
   Labs / Radiology
   126 K/uL
   11.7 g/dL
   110 mg/dL
   2.1 mg/dL
   19 mEq/L
   4.7 mEq/L
   74 mg/dL
   101 mEq/L
   130 mEq/L
   35.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2181-7-28**]  06:18 AM
                             [**2181-7-28**]  03:44 PM
                             [**2181-7-29**]  03:58 AM
                             [**2181-7-30**]  05:22 AM
                             [**2181-7-30**]  08:37 PM
                             [**2181-7-31**]  04:19 AM
                             [**2181-8-1**]  05:32 AM
   WBC
   7.8
   11.5
   11.2
   10.2
   8.6
   Hct
   38.7
   40.5
   38.0
   34.0
   35.9
   Plt
   115
   100
   105
   101
   126
   Cr
   1.4
   1.6
   1.8
   1.7
   2.2
   2.1
   2.1
   TropT
   4.02
   4.05
   Glucose
   159
   186
   137
   128
   121
   107
   110
   Other labs: PT / PTT / INR:14.8/66.4/1.3, CK / CKMB /
   Troponin-T:971/22/4.05, ALT / AST:99/184, Alk Phos / T Bili:73/0.7,
   Albumin:2.5 g/dL, LDH:621 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   80 year old female with multiple medical issues s/p recent MI with
   cardiac catheterization demonstrated severe 3VD deemed not amenable to
   intervention and she's a too high risk candidate for CABG. She now
   returned to the outside hospital with an inferior STEMI and is
   transfered for revaluation for option of revascularization. On arrival
   pt appears stable without evidence of ongoing ischemia.
   .
   #) CAD/s/p STEMI:  Cont to be chest pain free. Cath films under review
   by CT [**Doctor First Name 213**] (CABG vs high risk stent)
   - continue aspirin, IV heparin, lipitor
   -  holding metoprolol and lisinopril
   - awaiting CT [**Doctor First Name 213**] recs regarding whether CABG/AVR will be offered if
   not then possible high risk stenting
   - awaiting liver recs (obtaining prior MRI)
   .
   #) AF with slow ventricular response: Pt s/p temporary pacemaker
   placement. HRs remain in the 60
s-70
   - f/u EP recs
   -  timing of pacer will depend on whether pt will go for CT-surgery
   (could have pacer placed at that time)
   -  monitor on telemetry
   .
   #)PUMP: ECHO demonstrates poor RV fct
 pre-load dependent. CVP ranging
   from [**11-29**]. Plan is to cont with small boluses to improve her forward
   flow.
   - cont small fluid boluses with goal CVP 15
   - holding lisinopril and lasix
   .
   #) ARF: Cr remains elevated at 2.1. (Baseline of 0.7). Given steady
   decline this likely represents an evolving ATN.  A contributing factor
   is likely her poor forward flow versus contrast nephropathy from recent
   cath. We will cont to hold lasix and ACE at this time.
   - f/u renal recs
   -renally dose all meds and avoid nephrotoxins
   .
   #) Moderate AS: As noted above, we have consulted CT [**Doctor First Name 213**] to discuss
   possible AVR/CABG
   .
   #) Thrombocytopenia: Plts remain stable. Question of splenectomy
   secondary to ITP.
   - thought to be secondary to hepatitis c.
   .
   #) HepC: Liver consulted yesterday. Question as to whether liver
   lesions may represent HCC, although biopsies have been negative in the
   past.
   - appreciate liver recs
   - obtain OSH MRI
   #. UTI: Pt with UTI treated with cipro.
   #) Prophylaxis:
   - PPI, Heparin gtt
   .
   #) Code Status: FULL (confirmed with patient and health care proxies on
   [**7-29**])
   .
   #) Dispo: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   No chest pain.    Quite weak.   Poor urine output 250 cc.   Cr 2.1.
   Appreciate renal and hepatology input.
   I reviewed angio showing tight left main extending in ostial LAD and
   tight ostial RCA, both amenable to stenting.
   Medical Decision Making
   Liver team may need repeat MRI to fully characterize liver lesions.
   Will continue to monitor renal function and revasc will need to await
   renal function improvement.
   Eventually may be better candidate for high risk stenting rather than
   CABG/AVR.
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2181-8-1**] 15:56 ------

2181-08-03 06:54:00 Physician Resident Progress Note
24 Hour Events:
   - pt desat and CXR showed overload, poor UOP
   - initiated lasix gtt and diuril 500mg IV BID --> UOP increased
   80-200cc/hr
   - lasix gtt titrated up to 15 mg/hr
   - Repeat CXR showed improved edema
   - pacer set to 80
   - 2200 pt desat to 70-80's on monitor. ABG: 7.45/25/61/18, O2 sat on
   gas was 91%. CXR was slighly improved.
   - I/O: 22:00 -451 (1.4L UOP)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-8-2**] 10:00 AM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-3**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 85 (55 - 86) bpm
   BP: 101/53(65) {66/29(41) - 117/82(76)} mmHg
   RR: 20 (7 - 26) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 65 kg (admission): 55.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,067 mL
                                                                    312 mL
   PO:
             TF:
   IVF:
                                                                  1,067 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    600 mL
   Urine:
                                                                  1,560 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -493 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: 7.45/25/61/19/-4
   PaO2 / FiO2: 61
   Physical Examination
   GENERAL: In NAD. Oriented x1-2 (person,place). Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI
   NECK: supple, elevated JVP
   CARDIAC: rrr, nl s1, faint s2, [**4-20**] ESM as well as [**4-20**] PSM.
   LUNGS: Breath sounds diminished at bases with scattered crackles
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No lower extremity edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: 2+ DP and PT pulses.
   Labs / Radiology
   123 K/uL
   12.1 g/dL
   165 mg/dL
   2.4 mg/dL
   19 mEq/L
   4.1 mEq/L
   84 mg/dL
   97 mEq/L
   130 mEq/L
   35.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2181-7-29**]  03:58 AM
                             [**2181-7-30**]  05:22 AM
                             [**2181-7-30**]  08:37 PM
                             [**2181-7-31**]  04:19 AM
                             [**2181-8-1**]  05:32 AM
                             [**2181-8-2**]  04:19 AM
                             [**2181-8-2**]  08:14 AM
                             [**2181-8-2**]  05:45 PM
                             [**2181-8-2**]  10:02 PM
                             [**2181-8-3**]  05:19 AM
   WBC
   11.5
   11.2
   10.2
   8.6
   8.6
   8.5
   Hct
   40.5
   38.0
   34.0
   35.9
   37.7
   41
   35.9
   Plt
   100
   105
   101
   126
   117
   123
   Cr
   1.8
   1.7
   2.2
   2.1
   2.1
   2.3
   2.2
   2.4
   TropT
   4.05
   TCO2
   17
   18
   Glucose
   137
   128
   121
   107
   110
   139
   173
   172
   165
   Other labs: PT / PTT / INR:15.4/35.5/1.4, CK / CKMB /
   Troponin-T:971/22/4.05, ALT / AST:84/113, Alk Phos / T Bili:82/0.6,
   Lactic Acid:2.7 mmol/L, Albumin:2.8 g/dL, LDH:549 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   80 year old female with multiple medical issues s/p recent MI with
   cardiac catheterization demonstrated severe 3VD deemed not amenable to
   intervention and she's a too high risk candidate for CABG. She now
   returned to the outside hospital with an inferior STEMI and is
   transfered for revaluation for option of revascularization. On arrival
   pt appears stable without evidence of ongoing ischemia.
   .
   #) Hypoxia: Related to volume overload and pulmonary edema (9.5L
   positive LOS) though most recent CXR shows some improvement. She
   continues to sat in the low 90
s on non-rebreather. Most recent  ABG
   7.45/25/61/18
   - cont lasix gtt and diuril for diuresis. Would consider starting UF if
   diuresis becomes less effective
   - cont O2 via non-rebreather and wean as tolerated to keep sats> 92%
   .
   #) AF with slow ventricular response: Pacer rate increased to 80
   yesterday in an effort to improve stroke volume. We suspect that
   patient is reliant on atrial kick and would consider cardioversion but
   are holding off on this until her volume status improves.
   - f/u EP recs (consider amio vs. cardioversion)
   - will likely require permanent pacer
   -  monitor on telemetry
   .
   #) PUMP: Continues to be in acute CHF. Likely this is a function of
   both impaired [**Year (4 digits) **] and RV function. We are attempting to aggressively
   diurese her at this time to improve forward flow dynamics.
   - cont dopamine as needed to keep MAPs >60
   - lasix gtt and diuril
   - holding lisinopril.
   - f/u [**Year (4 digits) **] recs
   .
   #) CAD/s/p STEMI:  CT surgery recommendations re: CABG/AVR pending
   hepatology
s assessment of liver disease. Patient remains chest pain
   free. Waiting on return of [**Year (4 digits) **] function. Pt may be amenable to
   high-risk stenting
   - continue aspirin, lipitor
   -  holding metoprolol and lisinopril
   - awaiting CT [**Doctor First Name 213**] recs
   - restart IV heparin after discussion with [**Doctor First Name **] regarding possible
   line placement
   .
   #) ARF: Cr remains elevated at 2.4. (Baseline of 0.7). We feel this is
   most likely ATN. The etiology likely being a combination of impaired
   forward flow and possibly contrast nephropathy. We cont to avoid
   nephrotoxins and renally dose all medications.
   - f/u [**Doctor First Name **] recs
   .
   #) UTI: Urine cx from [**7-31**] + for fecal contamination. Will hold off on
   further ABX and recheck a UA/Ucx.
   .
   #) Moderate AS: As noted above, we have consulted CT [**Doctor First Name 213**] to discuss
   possible AVR/CABG
   .
   #) Thrombocytopenia: Plts remain stable. Question of splenectomy
   secondary to ITP.
   - thought to be secondary to hepatitis c.
   .
   #) HepC:  Hepatology reviewing OSH liver MRI. She will likely need a
   repeat liver MR [**First Name (Titles) **] [**Last Name (Titles) **] function improves in order to assess whether
   known liver lesions increasing in size.
   - f/u liver recs
   #) Prophylaxis:
   - PPI, Heparin gtt
   .
   #) Code Status: FULL (confirmed with HCP (daughter [**Name (NI) 8208**]) on [**8-2**])
   .
   #) Dispo: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   Better urine output with high dose lasix and hyrodiuril but CXR with
   worse CHF, still on Dopa 10, and Cr incr 2.3.
   Physical Examination
   Mod resp distress.
   + JVD.
   Medical Decision Making
   Will ask [**Name (NI) **] to proceed with ultrafiltration.
   Will discuss with EP adding Amio to restore NSR.
   Temp PM may need to come out soon.
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2181-8-3**] 12:04 ------

2181-08-04 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2181-8-3**] 03:30 PM
 DIALYSIS CATHETER - START [**2181-8-3**] 03:30 PM
   - Temp dialysis line placed for CVVH -> initially CVVH started at
   50cc/h, tolerated well and increased to 75cc/h overnight
   - Diuril and Lasix were d/c'd with fluid being removed from CVVH
   - At 8pm pt had 20sec run of NSVT
   - Liver: pt [**Name (NI) 8301**] class A now b/c of improved albumin, HCC still
   possiblity, imaging when [**Name (NI) **] fxn improves
   - UA showed 6 WBC, neg Nitrites, neg bact -> did not tx
   - CXR "Little change except for slightly lower lung volumes."
   - Did not give Amio, day nurse was busy and did not give, then later
   CVVH helping and held off on Amio
   - Attempted A-line but unsuccesful
   - Around 3am pt's BP started dropping nadired to 73/40s, decreased CVVH
   to 50cc/h, with some improvement, but eventually had to increase
   dopamine to 20. Since DA was maxed at 20 our next step was to start Neo
   and ordered it but did not need to give, MAPs remained > 55 o DA 20.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-8-2**] 10:00 AM
   Infusions:
   Heparin Sodium - 250 units/hour
   Dopamine - 18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-8-3**] 08:00 AM
   Fentanyl - [**2181-8-3**] 02:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-4**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 82 (73 - 97) bpm
   BP: 91/63(70) {77/23(39) - 108/68(77)} mmHg
   RR: 25 (9 - 25) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Wgt (current): 63.4 kg (admission): 55.5 kg
   Height: 60 Inch
             Total In:
                                                                  1,432 mL
                                                                    616 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,332 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                  1,778 mL
                                                                  1,125 mL
   Urine:
                                                                  1,324 mL
                                                                     39 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -346 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: 7.44///16/
   Physical Examination
   GENERAL: In NAD. Oriented x1-2 (person,place). Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI
   NECK: supple, elevated JVP
   CARDIAC: rrr, nl s1, faint s2, [**4-20**] ESM as well as [**4-20**] PSM.
   LUNGS: Breath sounds diminished at bases with scattered crackles
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No lower extremity edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: 2+ DP and PT pulses.
   Labs / Radiology
   112 K/uL
   12.6 g/dL
   155 mg/dL
   2.2 mg/dL
   16 mEq/L
   4.7 mEq/L
   59 mg/dL
   98 mEq/L
   129 mEq/L
   38.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2181-7-30**]  08:37 PM
                             [**2181-7-31**]  04:19 AM
                             [**2181-8-1**]  05:32 AM
                             [**2181-8-2**]  04:19 AM
                             [**2181-8-2**]  08:14 AM
                             [**2181-8-2**]  05:45 PM
                             [**2181-8-2**]  10:02 PM
                             [**2181-8-3**]  05:19 AM
                             [**2181-8-3**]  04:57 PM
                             [**2181-8-4**]  04:38 AM
   WBC
   10.2
   8.6
   8.6
   8.5
   6.3
   Hct
   34.0
   35.9
   37.7
   41
   35.9
   38.8
   Plt
   101
   126
   117
   123
   112
   Cr
   2.2
   2.1
   2.1
   2.3
   2.2
   2.4
   2.5
   2.2
   TCO2
   17
   18
   Glucose
   121
   107
   110
   139
   173
   172
   165
   144
   155
   Other labs: PT / PTT / INR:16.7/85.2/1.5, CK / CKMB /
   Troponin-T:971/22/4.05, ALT / AST:84/113, Alk Phos / T Bili:82/0.6,
   Lactic Acid:2.6 mmol/L, Albumin:2.8 g/dL, LDH:549 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   80 year old female with multiple medical issues s/p recent MI with
   cardiac catheterization demonstrated severe 3VD deemed not amenable to
   intervention and she's a too high risk candidate for CABG. She now
   returned to the outside hospital with an inferior STEMI and is
   transfered for revaluation for option of revascularization. On arrival
   pt appears stable without evidence of ongoing ischemia.
   .
   #) Hypoxia: Related to volume overload and pulmonary edema (9.5L
   positive LOS) though most recent CXR shows some improvement. She
   continues to sat in the low 90
s on non-rebreather. Most recent  ABG
   7.45/25/61/18
   - cont lasix gtt and diuril for diuresis. Would consider starting UF if
   diuresis becomes less effective
   - cont O2 via non-rebreather and wean as tolerated to keep sats> 92%
   .
   #) AF with slow ventricular response: Pacer rate increased to 80
   yesterday in an effort to improve stroke volume. We suspect that
   patient is reliant on atrial kick and would consider cardioversion but
   are holding off on this until her volume status improves.
   - f/u EP recs (consider amio vs. cardioversion)
   - will likely require permanent pacer
   -  monitor on telemetry
   .
   #) PUMP: Continues to be in acute CHF. Likely this is a function of
   both impaired [**Year (4 digits) **] and RV function. We are attempting to aggressively
   diurese her at this time to improve forward flow dynamics.
   - cont dopamine as needed to keep MAPs >60
   - lasix gtt and diuril
   - holding lisinopril.
   - f/u [**Year (4 digits) **] recs
   .
   #) CAD/s/p STEMI:  CT surgery recommendations re: CABG/AVR pending
   hepatology
s assessment of liver disease. Patient remains chest pain
   free. Waiting on return of [**Year (4 digits) **] function. Pt may be amenable to
   high-risk stenting
   - continue aspirin, lipitor
   -  holding metoprolol and lisinopril
   - awaiting CT [**Doctor First Name 213**] recs
   - restart IV heparin after discussion with [**Doctor First Name **] regarding possible
   line placement
   .
   #) ARF: Cr remains elevated at 2.4. (Baseline of 0.7). We feel this is
   most likely ATN. The etiology likely being a combination of impaired
   forward flow and possibly contrast nephropathy. We cont to avoid
   nephrotoxins and renally dose all medications.
   - f/u [**Doctor First Name **] recs
   .
   #) UTI: Urine cx from [**7-31**] + for fecal contamination. Will hold off on
   further ABX and recheck a UA/Ucx.
   .
   #) Moderate AS: As noted above, we have consulted CT [**Doctor First Name 213**] to discuss
   possible AVR/CABG
   .
   #) Thrombocytopenia: Plts remain stable. Question of splenectomy
   secondary to ITP.
   - thought to be secondary to hepatitis c.
   .
   #) HepC:  Hepatology reviewing OSH liver MRI. She will likely need a
   repeat liver MR [**First Name (Titles) **] [**Last Name (Titles) **] function improves in order to assess whether
   known liver lesions increasing in size.
   - f/u liver recs
   #) Prophylaxis:
   - PPI, Heparin gtt
   .
   #) Code Status: FULL (confirmed with HCP (daughter [**Name (NI) 8208**]) on [**8-2**])
   .
   #) Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2181-7-30**] 08:00 PM
   20 Gauge - [**2181-8-3**] 08:00 AM
   Dialysis Catheter - [**2181-8-3**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: